US08685969B2
2. 7-Bromo-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one
A solution of ethyl 6-bromo-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate (6.02 g, 13.96 mmol) and hydrazine hydrate (2.446 g, 48.9 mmol) in ethanol (200 mL) was heated at reflux for 16 hr. The mixture was concentrated under vacuum to a volume of approximate 30 mL. The insoluble product (4.56 g, 11.42 mmol, 82% yield) was collected by suction filtration and dried under vacuum at 50° C.

reactant | ethyl 6-bromo-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate | 13.96 mmol, 6.02 g | BrC1=CC=C2C(=C(NC2=C1)C(=O)OCC)C(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C19H15BrN2O5
reactant | hydrazine hydrate | 48.9 mmol, 2.446 g | O.NN
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 7-Bromo-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one | 11.42 mmol, 4.56 g, 82% yield | BrC=1C=CC=2C3=C(NC2C1)C(NN=C3C3=C(C(=CC=C3)[N+](=O)[O-])C)=O | C17H11BrN4O3
